datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([S:12][H:18])[C:13](=[S:14])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:15])([H:16])[H:17])([S:12][H:18])[C:13](=[S:14])[H:19],148.532
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][N:15]=[O:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:14][N:15]=[O:16],133.4696
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[O:3][O:4][H:8])([H:5])([H:6])[H:7],160.958
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[O:25][O:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9].[H:10][O:25][O:26],0.0
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:15]>>[C:0]([c:1]1[c:2][c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:10][H:15],36.9754724
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:7]([H:8])([H:9])[H:10],-1.2552
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[S:10])[H:11]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9](=[S:10])[H:11],48.5344
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:25])([H:26])[H:27])([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])[H:7],33.3046
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]1([H:14])([H:15])[C:8]([H:16])([H:17])[C:9]2([H:18])[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]1([H:23])[C:13]2([H:24])[H:25]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:18])[H:4].[C:7]1([H:14])([H:15])[C:8]([H:16])([H:17])[C:9]2[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]1([H:23])[C:13]2([H:24])[H:25],34.3088
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12])[H:5],20.2924
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[O:6][O:7]>>[C:0]([C:1](=[O:2])[O:6][O:7])([H:3])([H:4])[H:5],0.0
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][O:13],14.2256
[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])=[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])([H:8])([H:9])[H:10],100.709
[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],5.4392
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])=[C:10]([C:11]([H:19])([H:20])[H:21])[C:12]([H:22])([H:23])[H:24])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:10]([C:8]([C:7](=[C:6]([H:13])[H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[C:12]([H:22])([H:23])[H:24])[H:3],34.4343
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9](=[C:10]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[C:7](=[C:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:11])[H:12],94.9768
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11],0.0
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:6])[H:7],57.6137
[C:0]([O:1][C:2]([O:3])=[O:4])([H:5])([H:6])[H:7].[O:8][H:9]>>[C:0]([O:1][C:2]([O:3][O:8][H:9])=[O:4])([H:5])([H:6])[H:7],-17.288288
